### PR TITLE
[Merged by Bors] - feat(CategoryTheory): characterization of `κ`-filtered categories

### PR DESCRIPTION
**Pull request by joelriou**
We characterize a concrete characterization of `κ`-filtered categories in terms of the existence of an upper bound of a `κ`-bounded family objects, and the coequalization of a `κ`-bounded family of morphisms between fixed objects.

---

- [x] depends on: #30633
- [x] depends on: #30634

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Presentable/IsCardinalFiltered.lean [hunk 1]
```diff
@@ -226,4 +235,68 @@ instance isCardinalFiltered_pi {ι : Type u'} (J : ι → Type u) [∀ i, Catego
...
+
+include h₁ h₂ in
+omit [Fact κ.IsRegular] in
+lemma isCardinalFiltered_iff_aux₁ {ι : Type w} {j : J} {k : ι → J}
+    (f : ∀ i, j ⟶ k i) (hι : HasCardinalLT ι κ) :
+    ∃ (m : J) (a : ∀ i, k i ⟶ m) (b : j ⟶ m), ∀ i, f i ≫ a i = b := by
+  obtain ⟨l, hl⟩ := h₁ k hι
+  let a (i : ι) := (hl i).some
+  obtain ⟨m, b, c, hm⟩ := h₂ (fun i ↦ f i ≫ a i) hι
+  exact ⟨m, fun i ↦ a i ≫ b, c, by simpa using hm⟩
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Presentable/IsCardinalFiltered.lean]: Very optional :

```suggestion
  exact ⟨m, fun i ↦ a i ≫ b, c, by grind⟩
```

File: Mathlib/CategoryTheory/Presentable/IsCardinalFiltered.lean [hunk 2]
```diff
@@ -226,4 +235,68 @@ instance isCardinalFiltered_pi {ι : Type u'} (J : ι → Type u) [∀ i, Catego
...
+    (f₁ f₂ : ∀ i, j i ⟶ k) (hι : HasCardinalLT ι κ) :
+    ∃ (l : J) (a : k ⟶ l), ∀ i, f₁ i ≫ a = f₂ i ≫ a := by
+  have (i : ι) : ∃ (l : J) (p : k ⟶ l), f₁ i ≫ p = f₂ i ≫ p := by
+    obtain ⟨l, a, b, hl⟩ := h₂ (Sum.elim (fun (_ : PUnit.{w + 1}) ↦ f₁ i)
+      (fun (_ : PUnit.{w + 1}) ↦ f₂ i))
+        (hasCardinalLT_of_finite _ _ (Cardinal.IsRegular.aleph0_le Fact.out))
+    exact ⟨l, a, (hl (Sum.inl .unit)).trans (hl (Sum.inr .unit)).symm⟩
+  choose l p hp using this
+  obtain ⟨l, a, b, h⟩ := isCardinalFiltered_iff_aux₁ h₁ h₂ p hι
+  exact ⟨l, b, fun i ↦ by simp only [← h i, reassoc_of% hp]⟩
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Presentable/IsCardinalFiltered.lean]:
```suggestion
  exact ⟨l, b, fun i ↦ by grind⟩
```

File: Mathlib/CategoryTheory/Presentable/IsCardinalFiltered.lean [hunk 3]
```diff
@@ -226,4 +235,68 @@ instance isCardinalFiltered_pi {ι : Type u'} (J : ι → Type u) [∀ i, Catego
...
+
+variable (J κ) in
+lemma isCardinalFiltered_iff :
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Presentable/IsCardinalFiltered.lean:274]: I think this lemma deserves a small docstring explaining what the RHS of the iff "means".

File: Mathlib/CategoryTheory/Presentable/IsCardinalFiltered.lean [hunk 4]
```diff
@@ -226,4 +235,68 @@ instance isCardinalFiltered_pi {ι : Type u'} (J : ι → Type u) [∀ i, Catego
...
+  obtain ⟨j, hj⟩ := h₁ F.obj (hasCardinalLT_of_hasCardinalLT_arrow hA)
+  let a (i : A) : F.obj i ⟶ j := (hj i).some
+  obtain ⟨l, b, hb⟩ := isCardinalFiltered_iff_aux₂ h₁ h₂
+    (fun (f : Arrow A) ↦ F.map f.hom ≫ a f.right)
+    (fun (f : Arrow A) ↦ a f.left) hA
+  exact ⟨{
+    pt := l
+    ι.app i := a i ≫ b
+    ι.naturality _ _ f := by simpa using hb (Arrow.mk f)
+  }⟩
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Presentable/IsCardinalFiltered.lean]:
```suggestion
    ι.naturality _ _ f := by simpa using hb (Arrow.mk f) }⟩
```
to at least minimize the amount of orphaned delimiters maybe? (unfortunately, wrapping the `?_` from the refine in `⟨⟩` won’t work here, because the `obtains` can no longer work with non-`Prop` goals).

File: Mathlib/CategoryTheory/Presentable/IsCardinalFiltered.lean (hunk 3 above)
Comment (joelriou) [reply Mathlib/CategoryTheory/Presentable/IsCardinalFiltered.lean:274]: Thanks for the suggestion!

File: Mathlib/CategoryTheory/Presentable/IsCardinalFiltered.lean [hunk 5]
```diff
@@ -226,4 +235,71 @@ instance isCardinalFiltered_pi {ι : Type u'} (J : ι → Type u) [∀ i, Catego
...
+        (hasCardinalLT_of_finite _ _ (Cardinal.IsRegular.aleph0_le Fact.out))
+    exact ⟨l, a, (hl (Sum.inl .unit)).trans (hl (Sum.inr .unit)).symm⟩
+  choose l p hp using this
+  obtain ⟨l, a, b, h⟩ := isCardinalFiltered_iff_aux₁ h₁ h₂ p hι
+  exact ⟨l, b, fun i ↦ by grind⟩
+
+variable (J κ) in
+/-- A category is `κ`-filtered iff
+1) any family of objects of cardinality `< κ` admits a map towards a common object, and
+2) any family of morphims `j ⟶ k` of cardinality `< κ` (between *fixed* objects
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Presentable/IsCardinalFiltered.lean]:
```suggestion
2) any family of morphisms `j ⟶ k` of cardinality `< κ` (between *fixed* objects
```

**Review by robin-carlier — COMMENTED** [review]
Thanks!

maintainer merge
